US07205301B2
2-{(4[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-6-Phenyl-4,5-dihydro-2H-pyridazin-3-one
To a suspension of (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine (2 g) in n-Butanol (40 mL) was added of 1.14 g of 3-benzoylpropionic acid. The mixture was heated at reflux. After 3 h, the mixture was cooled at 0° C. and the 4-({4[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-hydrazono)-4-phenyl-butyric acid (2.19 g, 72%) was recovered by filtration. Mp 144–146° C., 1H NMR (DMSO-d6).12.0 (1H, OH), 10.4 (1H, s, NH), 10.1 (1H, s, NH), 8.77 (1H, d, 5 Hz), 8.42 (1H, d, 5 Hz) 8.12 (1H, s), 8.06 (1H, s), 7.80 (3H, m), 7.6 (1H, d, 5 Hz) 7.53 (1H, d, 5 Hz), 7.45 (3H, m), 7.34 (1H, t, 8 Hz), 7.08 (1H, m) 3.4 (2H, m), 2.95 (2H, m), MS (ES+) 473 (MH+, 100),. MS (ES−) 471 (M−1, 100). To a solution of 4-({4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-hydrazono)-4-phenyl-butyric acid (0.48 g) in tetrahydrofuranne (40 mL) was additionned N,N′-dicyclohexylcarbodiimide (0.23 g) and 1-Hydroxybenzotriazole (0.1401 g). The solution was stirred at reflux for 2 h then the solvent was evaporated. The crude was chromatographied, eluting with ethyl acetate to gave the title compound as a solid (0.3366 g, 78%). Mp 165–167° C., 1H NMR (CDCl3) 9.6 (1H,s, NH), 8.76 (1H, d, 5 Hz), 8.59 (1H, d, 5 Hz), 8.21 (1H, s), 7.86 (4H, m), 7.44 (4H, m), 7.26 (2H, m), 7.01 (1H, m), 3.18 (2H, t, 8 Hz), 2.87 (2H, t, 8 Hz). 13C NMR (CDCl3) 166.3, 162.4, 160.4, 159.8, 154.8, 152.9, 150.1, 146.7, 140.9, 135.7, 134.9, 130.5, 130.3, 129.0, 126.7, 122.9, 120.1, 119.6, 118.8, 117.55, 109.6, 28.4, 23.6. MS (ES+) 455 (MH+, 100), 909 (2 MH+, 10).

reactant | (3-Chloro-phenyl)-[4-(2-hydrazino-pyridin-4-yl)-pyrimidin-2-yl]-amine | 2 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NN | C15H13ClN6
reactant | 3-benzoylpropionic acid | 1.14 g | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
solvent | n-Butanol | 40 mL | C(CCC)O | C4H10O
product | (4[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-6-Phenyl-4,5-dihydro-2H-pyridazin-3-one | 0.3366 g, 78% | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1N=C(CCC1=O)C1=CC=CC=C1 | C25H19ClN6O
